US08030497B2
4-Bromo-2-(4-isopropyl-phenyl)-5-(2-methanesulfonyl-benzyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole
A mixture of 140 mg (0.252 mmol) of 4-Bromo-2-(4-isopropyl-phenyl)-5-(2-methanesulfinyl-benzyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole and 30 μl (0.265 mmol) hydrogen peroxide solution (30%) in 3 ml acetic acid is stirred at reflux temperature for 3 h. After that the reaction mixture is allowed to cool to room temperature and 25 ml EtOAc are added and this solution is washed with 4n NaOH (2×), water and sodiumhydrogensulfite solution, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=1:1) to afford 112 mg of the title compound as pale red crystals.

reactant | 4-Bromo-2-(4-isopropyl-phenyl)-5-(2-methanesulfinyl-benzyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 0.252 mmol, 140 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)CC2=C(C=CC=C2)S(=O)C | C28H31BrN2O3S
reactant | hydrogen peroxide | 0.265 mmol, 30 μl | OO | H2O2
reactant | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-2-(4-isopropyl-phenyl)-5-(2-methanesulfonyl-benzyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 112 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)CC2=C(C=CC=C2)S(=O)(=O)C | C28H31BrN2O4S
